US08119821B2
A solution of 3-mercapto-2-butanone (1.00 kg, 9.0 mole, 93.6% assay) in 2.0 L SDA 3C 200 Proof, absolute Ethanol (Ethanol) is prepared in a 5 L 1N RBF fitted with torian and transfer tubing. Malononitrile (588.8 g, 8.9 mole) is dissolved in 5.0 L Ethanol and cooled to 4° C. at which point triethylamine (250 mL, 1.8 mole, 0.2 equivalent) is added with a 560 mL ethanol rinse. The anionic malononitrile solution is cooled to −2° C. and the 3-mercaptobutanone solution is added over 1.3 hrs at −1 to −5° C. After an hour, the reaction shows less than 0.1% malononitrile. The reaction is concentrated on the rotovap (40° C. bath) to a slurry of approximately 2.5 L and 3.0 L of heptanes are added. The slurry is cooled to 5° C. for 30 minutes and the solids collected by filtration. The solids are rinsed with 2.5 L of 20% Ethanol in heptanes in 7 portions. The excess solvent is removed on the filter, and the wet cake dried in a vacuum oven overnight at 40° C. and full vacuum to give an off white solid as 2-amino-4,5-dimethylthiophene-3-carbonitrile (870 g, 64.1% yield, 99.7% purity shown by HPLC). The filtrates are re-concentrated to an oily slurry which is filtered and rinsed with 0.5 L of 20% Ethanol in heptanes. The second crop of solids is dried separately (47 g, 3.5% yield, 98.6% purity shown by HPLC). 1H NMR (400 MHz, DMSO-d6) δ 1.93 (d, J=1.2 Hz, 3H), 2.07 (d, J=1.2 Hz, 3H), 3.33 (s, 2H). MS 153 (MH+). HPLC Retention Time: approximately 10.9 minute (Phenomenex Luna C18 (2) column, acetonitrile/water with 0.1% AcOH).

reactant | 3-mercapto-2-butanone | 9.0 mole, 1.00 kg | SC(C(C)=O)C | C4H8OS
reactant | Malononitrile | 8.9 mole, 588.8 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 1.8 mole, 250 mL, 0.2 equivalent | C(C)N(CC)CC | C6H15N
solvent | Ethanol | 5.0 L | C(C)O | C2H6O
solvent | ethanol | 560 mL | C(C)O | C2H6O
product | 2-amino-4,5-dimethylthiophene-3-carbonitrile | 870 g, 64.1% yield | NC=1SC(=C(C1C#N)C)C | C7H8N2S
